US06703527B2
Synthesis of (−)-perillaldehyde
(S)-(−)-Perillyl alcohol (300 mg, 2.0 mmol) was dissolved in benzene (1 mL), added with aluminum isopropoxide (40 mg, 0.1 eq, 0.20 mmol) and 2-nitrobenzaldehyde (390 mg, 1.3 eq, 2.6 mmol) and stirred at room temperature for 2 hours. The reaction mixture was added with ethyl acetate and made acidic with addition of 2 N hydrochloric acid, and then the organic layer was separated. Subsequently, the organic layer was washed with saturated brine and dried over magnesium sulfate. The solvent was evaporated in vacuo, and the residue was purified by silica gel column chromatography (hexane:ethyl acetate=30:1) to obtain 250 mg (yield: 84%) of the title compound as yellow oil.

reactant | (S)-(−)-Perillyl alcohol | 2.0 mmol, 300 mg | CC(=C)[C@H]1CCC(=CC1)CO | C10H16O
reactant | aluminum isopropoxide | 0.20 mmol, 40 mg, 0.1 eq | CC([O-])C.[Al+3].CC([O-])C.CC([O-])C
reactant | 2-nitrobenzaldehyde | 2.6 mmol, 390 mg, 1.3 eq | [N+](=O)([O-])C1=C(C=O)C=CC=C1 | C7H5NO3
reactant | hydrochloric acid | 2 N | Cl | ClH
solvent | benzene | 1 mL | C1=CC=CC=C1 | C6H6
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (−)-perillaldehyde | 250 mg, yield: 84% | CC(=C)C1CCC(=CC1)C=O | C10H14O
